US07776869B2
Step 5: N,N-Diethyl-2-(4-methoxy-3-nitrophenoxy)ethylamine
4-(2-chloroethoxy)-1-methoxy-2-nitrobenzene (0.15 g, 0.67 mmol) was dissolved in acetonitrile (1 ml). Excess diethylamine (1.5 ml, 17.7 mmol) was added and the reaction heated in the microwave (T=120° C., 40 min) to complete conversion. The reaction mixture was diluted with dichloromethane, then washed with 5M sodium hydroxide and brine, then dried over sodium sulfate. Evaporation of the solvent under reduced pressure gave the title compound as an orange oil.

reactant | 4-(2-chloroethoxy)-1-methoxy-2-nitrobenzene | 0.67 mmol, 0.15 g | ClCCOC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C9H10ClNO4
reactant | diethylamine | 17.7 mmol, 1.5 ml | C(C)NCC | C4H11N
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N,N-Diethyl-2-(4-methoxy-3-nitrophenoxy)ethylamine | C(C)N(CC)CCOC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C13H20N2O4
